Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L hand pain/swelling
 
Major Surgical or Invasive Procedure:
s/p Irrigation and debridement of left ___ MCP joint

 
History of Present Illness:
___ M with HIV (last CD4>500, VL undetectable) on HAART 
presenting with L hand pain/swelling.

Pt reports punching a brick wall in his house appx 5 days ago.  
Notes there was just a small laceration initially over his 
second MCP joint which he cleaned and dressed with a Bandaid.  
However, it progressively got more swollen over the last few 
days.  Appx 2 days ago, he noted pus drainage from the wound 
with swelling and erythema tracking up his arm.  Denies fevers, 
chills, numbness, tingling, n/v.  No prior history of cellulitis 
and denies pt otherwise denies IVDU.

In the ED, VS: 98.9, HR: 112, BP: 142/90, RR: 16, O2: 99% RA
Exam notable for swelling and drainage around L ___ MCP joint
Labs notable for WBC: 10.4, Cr: 1.2, rest of labs wnl
Pt given IV Vanc, Unasyn and seen by Hand Surgery who I&D'd the 
wound and sent for culture.
Admitted to Medicine for further observation and tx of hand 
cellulitis

ROS: full 10-point ROS reviewed and is negative except as noted 
above.
 
Past Medical History:
HIV (VL undetectable, CD4>500)

PAST SURGICAL HISTORY:
eye surgeries for strabismus
 
Social History:
___
Family History:
Non-contributory to this case
 
Physical Exam:
VITALS: 98.5PO 132 / 89 70 16 99 
GENERAL: well-appearing young man, sitting in bed in NAD
EOMI: no scleral icterus
ENT: MMM, clear oropharynx, normal hearing
NECK: supple
RESP: CTA b/l
CV: RRR, no m/r/g
GI: Soft, NT/ND
GU: no foley
EXT: L ___ MCP with 2cm surgical wound.
SKIN: no other rashes
NEURO: AOx3, no facial droop
PSYCH: pleasant, normal mood and affect
 
Pertinent Results:
ADMISSION LABS:
___ 08:15PM BLOOD WBC-10.4* RBC-5.22 Hgb-15.5 Hct-45.2 
MCV-87 MCH-29.7 MCHC-34.3 RDW-11.9 RDWSD-37.7 Plt ___
___ 08:15PM BLOOD Glucose-78 UreaN-8 Creat-1.2 Na-140 K-4.4 
Cl-103 HCO3-24 AnGap-17
___ 08:32PM BLOOD Lactate-1.7

MICRO:
___ SWAB WOUND CULTURE-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 

 
Brief Hospital Course:
Hospitalization Summary 

The patient presented to the emergency department and was 
evaluated by the hand surgery team. The patient was found to 
have left ___ MCP wound which was debrided at the bedside in the 
emergency department.  He was initially admitted to medicine for 
IV abx and observation but due to worsening exam was brought to 
the operating room on ___ for formal I+D of left ___ MCP 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ and post-operative antibiotics which were further 
adjusted at the recommendation of the infectious disease team. 
The patient's home medications were continued throughout this 
hospitalization. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
WBAT in the left upper extremity. The patient will follow up 
with Dr. ___ routine - he will also follow up with the 
infectious disease team. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. emtricita-rilpivirine-tenof DF 200-25-300 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Clindamycin 300 mg PO Q6H  
3.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
4.  Levofloxacin 750 mg PO Q24H  
5.  rilpivirine 25 mg oral DAILY  
6.  emtricita-rilpivirine-tenof DF 200-25-300 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hand ___ MCP hand/joint infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND SURGERY:

- You were in the hospital for hand surgery. It is normal to 
feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated in the right upper extremity.  

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Please cover wound with soft dressing - change daily

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with your Hand Surgeon, Dr. ___. Please call 
___ to schedule appointment upon discharge.

Additionally, you will need to follow up with your infectious 
disease doctor for the deep infection in your hand.  Dr. 
___.  See contact information below. 

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

 
Followup Instructions:
___